US07129239B2
Preparation of Intermediate 2-Chloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-benzamide (I-(4A-7)a)
6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine I-(1A-1)a (1.00 g, 3.92 mmol) was dissolved in 6 ml of N,N-dimethylacetamide giving a clear brown solution. After cooling to 5° C., neat 2-chlorobenzoyl chloride (0.80 g, 4.34 mmol) was added over 1 minute. The solution was warmed to room temperature and stirred for 4 hours. Addition of water (15 ml) caused white precipitate to come out of solution. The mixture was stirred for an additional 30 minutes at room temperature, then the precipitate was collected by vacuum filtration, rinsing with H2O and then hexanes. The solid was further dried under vacuum to give I-(4A-7)a as a colorless solid (1.27 g, 82%): +ACPI MS (M+1) 393.1; 1H NMR (400 MHz, DMSO-d6) δ 10.02 (s, 1H), 9.11 (s, 1H), 8.40 (s, 1H), 7.93 (dd, J=7.4, 1.6 Hz, 1H), 7.66–7.40 (m, 7H).

reactant | 6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)Cl)N | C10H8Cl2N4
reactant | 2-chlorobenzoyl chloride | 4.34 mmol, 0.80 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | water | 15 ml | O | H2O
solvent | N,N-dimethylacetamide | 6 ml | CN(C(C)=O)C | C4H9NO
product | 2-Chloro-N-[4-chloro-6-(4-chlorophenylamino)-pyrimidin-5-yl]-benzamide | 1.27 g, 82% | ClC1=C(C(=O)NC=2C(=NC=NC2NC2=CC=C(C=C2)Cl)Cl)C=CC=C1 | C17H11Cl3N4O
